US06346525B1
A solution of allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate (365 mg, 1.0 mmol), triphenylphosphine (315 mg, 1.2 mmol), and 4-phenyl-6-(2-triethylsilanyloxy-ethyl)-2H-1-thia-2,3-diaza-naphthalene 1,1-dioxide (458mg, 1.1 mmol) in anhydrous tetrahydrofuran (7 mL) is cooled in an ice-bath and stirred under a nitrogen atmosphere while diisopropyl azodicarboxylate (0.24 mL, 1.2 mmol) is added dropwise over a few minutes. The resulting solution is stirred in the cold for 30 minutes, then diluted with chloroform, washed with 5% aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered and evaporated under vacuum. The residue is purified by silica gel flash chromatography, eluting with hexane-ethyl acetate, to afford allyl (1S,5R,6S)-6-[(1(R)-allyloxycarbonyloxy-ethyl]-2-[1,1-dioxo-4-phenyl-6-(2-triethylsilanyloxy-ethyl)-2H-1-thia-2,3-diaza-naphthalen-2-ylmethyl]-1-methyl-carbapen-2-em-3-carboxylate.

reactant | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate | 1.0 mmol, 365 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | triphenylphosphine | 1.2 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-phenyl-6-(2-triethylsilanyloxy-ethyl)-2H-1-thia-2,3-diaza-naphthalene 1,1-dioxide | 1.1 mmol, 458mg | C1(=CC=CC=C1)C1=NNS(C2=CC=C(C=C12)CCO[Si](CC)(CC)CC)(=O)=O | C21H28N2O3SSi
reactant | diisopropyl azodicarboxylate | 1.2 mmol, 0.24 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (1(R)-allyloxycarbonyloxy-ethyl]-2-[1,1-dioxo-4-phenyl-6-(2-triethylsilanyloxy-ethyl)-2H-1-thia-2,3-diaza-naphthalen-2-ylmethyl]-1-methyl-carbapen-2-em-3-carboxylate | C(C=C)OC(=O)O[C@H](C)OC(=O)C1=C(C([C@H]2N1C(C2)=O)C)CN2S(C1=CC=C(C=C1C(=N2)C2=CC=CC=C2)CCO[Si](CC)(CC)CC)(=O)=O | C36H45N3O9SSi
